US05008380
3 g of 14-bromo daunorubicin 13,13-diethoxy ketal, prepared as described in Example 2 from 2.5 g of daunorubicin hydrochloride and isolated by filtration after trituration with a small volume of water, was stirred overnight at 25°-30° C. in 150 ml of a 5% aqueous solution of oxalic acid, at which time hydrolysis of the ketal group was complete. The pH was adjusted to 3.5 using a 5% solution of sodium bicarbonate and then the reaction mixture was kept at 50° C. for 2 days, after which time quantitative HPLC analysis (using the conditions of USP XXI) of the reaction mixture showed the presence of 1.75 g of doxorubicin (as the free substance). Isolation by preparative HPLC using a RP-18 reverse-phase silica gel column gave 1.5 g of doxorubicin hydrochloride having a purity of 98.9%.

reactant | daunorubicin hydrochloride | 2.5 g | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)C)O)N)O.Cl
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | doxorubicin | 1.75 g | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
solvent | water | O | H2O
product | doxorubicin hydrochloride | 1.5 g | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl | InChI=1S/C27H29NO11.ClH/c1-10-22(31)13(28)6-17(38-10)39-15-8-27(36,16(30)9-29)7-12-19(15)26(35)21-20(24(12)33)23(32)11-4-3-5-14(37-2)18(11)25(21)34;/h3-5,10,13,15,17,22,29,31,33,35-36H,6-9,28H2,1-2H3;1H/t10-,13-,15-,17-,22+,27-;/m0./s1
